US07410966B2
6-Bromo-2-[4-(2-chloroethoxy)phenyl]-3H-imidazo[4,5-b]pyridine
2-[4-(6-Bromo-3H-imidazo[4,5-b]pyridin-2-yl)phenoxy]ethanol (2.0 g, 6 mmol) was dissolved and refluxed in thionyl chloride (30 ml) for 3 h. The excess thionyl chloride was evaporated off and the residue was co-evaporated twice with toluene affording the title product in quantitative yield.

reactant | 2-[4-(6-Bromo-3H-imidazo[4,5-b]pyridin-2-yl)phenoxy]ethanol | 6 mmol, 2.0 g | BrC=1C=C2C(=NC1)NC(=N2)C2=CC=C(OCCO)C=C2 | C14H12BrN3O2
reactant | thionyl chloride | 30 ml | S(=O)(Cl)Cl | Cl2OS
product | 6-Bromo-2-[4-(2-chloroethoxy)phenyl]-3H-imidazo[4,5-b]pyridine | quantitative yield | BrC=1C=C2C(=NC1)NC(=N2)C2=CC=C(C=C2)OCCCl | C14H11BrClN3O
